* SpiceRL Multiphase Buck — AC Analysis (Middlebrook Injection)
* ============================================================
* Replica of multiphase_buck_tran.net with loop break for
* measuring loop gain T(s), phase margin, and gain margin.
* ============================================================

.include models/cmos_180nm.lib
.include models/components.lib

* ---- Parameters (same as transient) ----
.param Vdd = 1.8
.param Vout_target = 0.9
.param Iout = 1.0

.param W_hi1_um = 60000
.param W_lo1_um = 30000
.param W_hi2_um = 60000
.param W_lo2_um = 30000
.param Lgate = 180n

.param L1_nH = 22
.param L2_nH = 22
.param C1_nF = 470
.param fsw_MHz = 33.3

.param R_comp_kOhm = 5
.param C_comp_nF = 1
.param C_comp2_pF = 220
.param R_droop_mOhm = 1

* Derived
.param fsw = {fsw_MHz * 1e6}
.param Tsw = {1 / fsw}
.param L1 = {L1_nH * 1e-9}
.param L2 = {L2_nH * 1e-9}
.param C1 = {C1_nF * 1e-9}
.param R_comp = {R_comp_kOhm * 1e3}
.param C_comp = {C_comp_nF * 1e-9}
.param C_comp2 = {C_comp2_pF * 1e-12}
.param W_hi1 = {W_hi1_um * 1e-6}
.param W_lo1 = {W_lo1_um * 1e-6}
.param W_hi2 = {W_hi2_um * 1e-6}
.param W_lo2 = {W_lo2_um * 1e-6}
.param R_droop = {R_droop_mOhm * 1e-3}

.param Rload = {Vout_target / Iout}
.param Vref = 0.45
.param R_fb_top = 10k
.param R_fb_bot = {R_fb_top * Vref / (Vout_target - Vref)}

.param L_DCR = 0.050
.param C_ESR = 0.005

* ---- Supply ----
Vdd vdd 0 {Vdd}

* ---- Ramps ----
V_ramp1 ramp1 0 PULSE(0 {Vdd} 0 {Tsw*0.999} {Tsw*0.001} 0 {Tsw})
V_ramp2 ramp2 0 PULSE(0 {Vdd} {Tsw/2} {Tsw*0.999} {Tsw*0.001} 0 {Tsw})

* ---- Feedback with LOOP BREAK ----
R_fb_top vout fb_before {R_fb_top}
R_fb_bot fb_after 0 {R_fb_bot}

L_break fb_before fb_after 1G
V_inject fb_before fb_after AC 1

* ---- Compensator ----
V_ref vref_node 0 {Vref}
B_ea comp_out 0 V = limit({1000 * (V(vref_node) - V(fb_after))}, 0, {Vdd})

R4 comp_out comp_mid {R_comp}
C2 comp_mid fb_after {C_comp}
C3 comp_out fb_after {C_comp2}

* ---- Phase 1 PWM + power stage ----
B_gate_hi1 gate_hi1_pre 0 V = {if(V(comp_out) > V(ramp1), 0, Vdd)}
B_gate_lo1 gate_lo1_pre 0 V = {if(V(comp_out) > V(ramp1), Vdd, 0)}
R_dt_hi1 gate_hi1_pre gate_hi1 100
C_dt_hi1 gate_hi1 0 10p
R_dt_lo1 gate_lo1_pre gate_lo1 100
C_dt_lo1 gate_lo1 0 10p

M_hi1 sw1 gate_hi1 vdd vdd pmos_180n L={Lgate} W={W_hi1}
M_lo1 sw1 gate_lo1 0 0 nmos_180n L={Lgate} W={W_lo1}
L_ph1 sw1 vout_pre {L1}

* ---- Phase 2 PWM + power stage ----
B_gate_hi2 gate_hi2_pre 0 V = {if(V(comp_out) > V(ramp2), 0, Vdd)}
B_gate_lo2 gate_lo2_pre 0 V = {if(V(comp_out) > V(ramp2), Vdd, 0)}
R_dt_hi2 gate_hi2_pre gate_hi2 100
C_dt_hi2 gate_hi2 0 10p
R_dt_lo2 gate_lo2_pre gate_lo2 100
C_dt_lo2 gate_lo2 0 10p

M_hi2 sw2 gate_hi2 vdd vdd pmos_180n L={Lgate} W={W_hi2}
M_lo2 sw2 gate_lo2 0 0 nmos_180n L={Lgate} W={W_lo2}
L_ph2 sw2 vout_pre {L2}

* ---- Output ----
R_droop_net vout_pre vout_cap {R_droop}
C1 vout_cap vout_esr {C1}
R_C1_esr vout_esr 0 {C_ESR}
R_sense vout_cap vout 1m
R_load vout 0 {Rload}

* ===========================================================
* AC ANALYSIS
* ===========================================================
.ac dec 100 100 100Meg

.meas AC crossover_freq_kHz WHEN mag(V(fb_after)/V(fb_before))=1
.meas AC phase_margin_deg FIND phase(V(fb_after)/V(fb_before)) WHEN mag(V(fb_after)/V(fb_before))=1
.meas AC gain_margin_dB FIND dB(V(fb_after)/V(fb_before)) WHEN phase(V(fb_after)/V(fb_before))=-180

.end
